US09216980B2
Step 1: tert-Butyl 6-methoxypyridin-3-ylcarbamate
A mixture of 6-methoxypyridin-3-amine (14 g, 0.11 mol) and di-tert-butyldicarbonate (32 g, 0.15 mol) in 1,4-dioxane (100 mL) was heated at 75° C. for 16 h. The cooled reaction mixture was diluted with ethyl acetate (200 mL) and washed with water (150 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromotagraphy (silica, 120 g column, ISCO, 0-40% ethyl acetate in hexanes) to afford the title compound as a pink solid (20 g, 80%).

reactant | 6-methoxypyridin-3-amine | 0.11 mol, 14 g | COC1=CC=C(C=N1)N | C6H8N2O
reactant | di-tert-butyldicarbonate | 0.15 mol, 32 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 6-methoxypyridin-3-ylcarbamate | 20 g, 80% | COC1=CC=C(C=N1)NC(OC(C)(C)C)=O | C11H16N2O3
